US06458817B1
(2S)-1-{[4-({[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]methyl}sulfonyl)phenethyl]amino}-3-{4-[(triisopropylsilyl)oxy]phenoxy}-2-propanol
This material was prepared as described in Example 11 from tert-butyl{4-[(2S)oxiranylmethoxy]phenoxy}diphenylsilane (0.45 g, 1.124 mmol) and 4-({[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]methyl}sulfonyl)phenethylamine (0.70 g, 1.875 mmol). This procedure afforded 0.570 g of the title compound as a white foam.

reactant | tert-butyl{4-[(2S)oxiranylmethoxy]phenoxy}diphenylsilane | 1.124 mmol, 0.45 g | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)OC1=CC=C(C=C1)OC[C@H]1OC1 | C25H28O3Si
reactant | 4-({[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]methyl}sulfonyl)phenethylamine | 1.875 mmol, 0.70 g | COC1=CC=C(C=C1)C1=NC(=NO1)CS(=O)(=O)C1=CC=C(CCN)C=C1 | C18H19N3O4S
product | (2S)-1-{[4-({[5-(4-methoxyphenyl)-1,2,4-oxadiazol-3-yl]methyl}sulfonyl)phenethyl]amino}-3-{4-[(triisopropylsilyl)oxy]phenoxy}-2-propanol | 0.570 g | COC1=CC=C(C=C1)C1=NC(=NO1)CS(=O)(=O)C1=CC=C(CCNC[C@@H](COC2=CC=C(C=C2)O[Si](C(C)C)(C(C)C)C(C)C)O)C=C1 | C36H49N3O7SSi
